US07728176B2
A 30-ml four-necked flask was equipped with a stirrer, a thermometer, a dropping funnel and a reflux condenser. 0.014 g (0.08 mmol) of palladium (II) chloride, 0.0194 g (0.19 mmol) of triethylamine and 5.5 ml of tetrahydrofuran were weighed in the flask, followed by stirring. Further, 0.084 g (0.16 mmol) of tri-tert-butylphosphonium tetraphenylborate obtained in Example A-1 was weighed in air and added into the flask. The flask was purged with argon, followed by stirring at 21° C. for 30 minutes. 1.368 g (8 mmol) of 4-bromotoluene was added, followed by stirring at 21° C. for 30 minutes. 4 ml (8.8 mmol) of 2.2M tetrahydrofuran solution of phenylmagnesium chloride was added dropwise at 21° C. over a period of 10 minutes, followed by stirring at 21° C. for 2 hours. After the completion of the reaction, 5 ml of saturated aqueous ammonium chloride solution was added, followed by separation. The organic phase was purified by column chromatography to afford 1.175 g of 4-methylbiphenyl (yield: 87 mol % based on 4-bromotoluene). The identification of the product was made by mass spectroscopy.

reactant | 4-bromotoluene | 8 mmol, 1.368 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 8.8 mmol, 2.2M, 4 ml | O1CCCC1 | C4H8O
catalyst | palladium (II) chloride | 0.08 mmol, 0.014 g | [Pd](Cl)Cl
catalyst | triethylamine | 0.19 mmol, 0.0194 g | C(C)N(CC)CC | C6H15N
catalyst | tri-tert-butylphosphonium tetraphenylborate | 0.16 mmol, 0.084 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
product | 4-methylbiphenyl | 1.175 g | CC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12
